US05607939
To an ethanolic solution (100 ml) of diphenylacetonitrile (28 g) were added DBU (6 ml) and ethyl acrylate (30 ml) and the mixture was heated and stirred at 80° C. for 16 hours. After cooling, 200 ml of 2N-hydrochloric acid was added to the reaction mixture, which was then extracted with isopropyl ether. The organic layer was washed with water, dried (anhydrous magnesium sulfate) and concentrated under reduced pressure. The resulting crude crystals were recrystallized from hexane/isopropyl ether to provide ethyl 4-cyano-4,4-diphenylbutyrate (34 g).

reactant | diphenylacetonitrile | 100 ml, 28 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | DBU | 6 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acrylate | 30 ml | C(C=C)(=O)OCC | C5H8O2
product | ethyl 4-cyano-4,4-diphenylbutyrate | 34 g | C(#N)C(CCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H19NO2
